US07977477B2
To a solution of 2,6-difluoro-N-[3-(4-formyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide (30 mg, 0.08 mmol) and morpholine (14 mg, 0.16 mmol) in CH2Cl2 (5 ml) and THF (2 ml) was added 3 Å molecular sieves (1 g) followed by sodium triacetoxyborohydride (50 mg, 0.24 mmol) and the mixture stirred at ambient temperature under a nitrogen atmosphere for 2 h. The reaction mixture was filtered through Celite, reduced in vacuo then purified by flash column chromatography [SiO2, EtOAc-hexane (1:1, 1:0), then CH2Cl2-MeOH (95:5)] affording 2,6-difluoro-N-[3-(4-morpholin-4-yl-methyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide (13 mg) as a cream solid. (LC/MS: Rt 1.80, [M+H]+ 439).

reactant | 2,6-difluoro-N-[3-(4-formyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide | 0.08 mmol, 30 mg | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC=C3C=O)C(=CC=C1)F | C18H11F2N5O2
reactant | morpholine | 0.16 mmol, 14 mg | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 0.24 mmol, 50 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2,6-difluoro-N-[3-(4-morpholin-4-yl-methyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide | 13 mg | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2C)C=CC=C3N3CCOCC3)C(=CC=C1)F | C22H20F2N6O2
